US09376441B2
2-((4-bromo-2-nitrosophenyl)(methyl)amino)ethanol (6.5 g, 0.025 mol) was dissolved in THF (100 ml), Sodium hydrosulfite (26.2 g, 0.15 mol in water 150 mL) was added. The reaction was stirred at rt for 1 h. The mixture was extracted with EtOAc (2×100 ml). The combined organic layers was concentrated and purified by flash chromatography eluted with EtOAc to give 3.1 g, (50.3%) of 2-((2-amino-4-bromophenyl)(methyl)amino)ethanol LCMS-ESI+ (m/z): [M+H]+ calcd for C9H13BrN2O4:244.03; found 244.96, 246.91.

reactant | 2-((4-bromo-2-nitrosophenyl)(methyl)amino)ethanol | 0.025 mol, 6.5 g | BrC1=CC(=C(C=C1)N(CCO)C)N=O | C9H11BrN2O2
reactant | Sodium hydrosulfite | 0.15 mol, 150 mL, 26.2 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2-((2-amino-4-bromophenyl)(methyl)amino)ethanol | 50.3% | NC1=C(C=CC(=C1)Br)N(CCO)C | C9H13BrN2O
